US05480882
A solution of 9.7 g (0.547 mole) of 5-cyanosalicylic acid methyl ester (prepared as described in Chem. Pharm. Bull., 1984, 38, 4466-4477) in 15 ml of acetonitrile, was combined with 4.01 g (0.65 mole) of ethanolamine, and then heated at reflux for 24 hours. At the end of the 4th and 7th hours, two further portions of 1 g (0.016 mole) each of ethanolamine were added. At the end of the heating, the solution was evaporated to dryness under vacuum, taken up with ethyl acetate and washed with hydrochloric acid 1N and then with water. The organic layer was dried over sodium sulphate and concentrated to small volume. The formed solid was filtered and dried under vacuum yielding 9.2 g of 5-cyano-(2-hydroxyethyl)salicylamide. m.p. 144°-146° C. (acetonitrile).

reactant | 5-cyanosalicylic acid methyl ester | 0.547 mole, 9.7 g | COC(C=1C(O)=CC=C(C1)C#N)=O | C9H7NO3
reactant | ethanolamine | 0.65 mole, 4.01 g | C(O)CN | C2H7NO
reactant | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 5-cyano-(2-hydroxyethyl)salicylamide | 9.2 g | C(#N)C1=CC=C(C(C(=O)N)=C1)OCCO | C10H10N2O3
